US09328110B2
A solution of ethyl 6-(3-aminoquinolin-4-ylamino)hexanoate (34.3 g, 114 mmol), trimethyl orthobutyrate (19.5 g, 131 mmol), and pyridinium p-toluenesulfonate (1.0 g, 4.0 mmol) in toluene (250 mL) was heated at reflux under a Dean-Stark trap for 5 hours, periodically draining off the distillate and adding fresh toluene to the reaction mixture. The solution was concentrated under reduced pressure, and the residue was taken up in dichloromethane (150 mL), washed successively with a saturated aqueous sodium bicarbonate solution and water (100 mL each), dried over potassium carbonate, filtered, and concentrated under reduced pressure to provide ethyl 6-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)hexanoate (36.0 g) as a dark oil that was used directly in the next step without further purification.

reactant | ethyl 6-(3-aminoquinolin-4-ylamino)hexanoate | 114 mmol, 34.3 g | NC=1C=NC2=CC=CC=C2C1NCCCCCC(=O)OCC | C17H23N3O2
reactant | trimethyl orthobutyrate | 131 mmol, 19.5 g | C(CCC)(OC)(OC)OC | C7H16O3
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
catalyst | pyridinium p-toluenesulfonate | 4.0 mmol, 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | ethyl 6-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)hexanoate | 36.0 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCCC(=O)OCC | C21H27N3O2
